US06835469B2
2-Chloroquinoline (5.0 g, 31 mmol) and 4-methoxyphenylboronic acid (5.5 g, 36 mmol) were dissolved in a solvent mixture containing 40 mL ethylene glycol dimethyl ether and 60 mL water containing 12.0 g K2CO3. To the stirred solution was added 1.6 g tetrakis(triphenylphosphine)palladium(O) and the mixture refluxed under N2 overnight. The cooled reaction mixture was then removed of water, extracted with methylene chloride three times. The combined organic phase was washed with portions of brine and then dried with anhydrous sodium sulfate, filtered, and evaporated of solvent to give 2-(p-methoxyphenyl)quinoline (5.0 g) after column chromatography (20% ethyl acetate in hexane).

reactant | 2-Chloroquinoline | 31 mmol, 5.0 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | 4-methoxyphenylboronic acid | 36 mmol, 5.5 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | ethylene glycol dimethyl ether | 40 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(O) | 1.6 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
solvent | water | 60 mL, 12.0 g | O | H2O
product | 2-(p-methoxyphenyl)quinoline | 5.0 g | COC1=CC=C(C=C1)C1=NC2=CC=CC=C2C=C1 | C16H13NO
